US04604390
5-Amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]-indazole-2-ethanamine
5-amino-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine, mp 131°-140° C., hydrochloride salt, mp greater than 300° C. N-[2-(5-amino-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)ethyl]acetamide, mp 213°-216° C., hydrochloride salt, mp 287° C. dec.

reactant | 5-amino-2H[1]benzothiopyrano[4,3,2-cd]indazole-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN)C1=C(S2)C=CC=C1 | C15H14N4S
reactant | N-[2-(5-amino-2H[1]benzothiopyrano[4,3,2-cd]indazol-2-yl)ethyl]acetamide | NC1=C2C=3C(=NN(C3C=C1)CCNC(C)=O)C1=C(S2)C=CC=C1 | C17H16N4OS
product | 5-Amino-N,N-diethyl-2H[1]benzothiopyrano[4,3,2-cd]-indazole-2-ethanamine | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=CC=C1 | C19H22N4S
